Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dizziness, Nausea, Vomiting and Unsteady Gait
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo male with a history of hypertension, 
hypothyroidism, bilateral sensorneural hearing loss with hearing 
aides and chronic neck pain who presents with dizziness since 
5pm on ___.

Mr. ___ reports that he has had a cold for the lsat 10 days 
involving rhinorrhea and cough.  He denies any fevers.  
Yesterday at 5pm when he was walking from one grocery store to 
another, when he suddenly felt dizzy with unsteady gait. He 
denies any room spinning vertigo.  He reports the feeling of 
movement like rocking on a boat and being off balanced.  He 
reports continuous dizziness with bouts of worsening when 
standing and walking.  He then called his wife to come pick him 
up.  When he returned home, he took a 45 minute nap.  After 
waking up from the nap and trying to get up from his left side, 
he again felt dizzy and had unsteady gait.  He almost fell to 
his left and had to grab onto a chair to support himself. He 
denies any LOC or head strike.  He also noted that everything 
seemed to look like it was moving side to side, but he denies 
any blurry vision or diplopia.  Dizziness is worst with change 
in position and moving his head.  He reports some right sided 
headache that is ___ at its worst.  He denies any focal 
weakness, any numbness or any tingling.  He denies tinnitus.  

Due to these 2 episodes, he called his PCP who recommended that 
he be evaluated by the ___ ED.  In the ED, a head CT was 
obtained which was negative for bleed or large territorial 
infarct.  Zofran, meclizine and Ativan were given with minimal 
symptomatic relief.  

On neurologic review of systems, the patient denies confusion. 
Denies difficulty with producing or comprehending speech. Denies 
loss of vision, blurred vision, diplopia, tinnitus, or new 
hearing difficulty, dysarthria, or dysphagia. Denies focal 
muscle weakness, numbness, parasthesia. Denies loss of 
sensation. Denies bowel or bladder incontinence or retention.

On general review of systems, the patient denies fevers, rigors, 
night sweats, or noticeable weight loss. Denies chest pain, 
palpitations, or dyspnea. Denies diarrhea, constipation, or 
abdominal pain.  No recent change in bowel or bladder habits.  
Denies dysuria or hematuria. Denies myalgias, arthralgias, or 
rash.
 
Past Medical History:
- HTN
- Hypothyroidism
- Benign Prostatic Hypertrophy
- Actinic keratosis
- Basal Cell Carcinoma
 
Social History:
___
Family History:
Cardiac disease in the family.  
 
Physical Exam:
=============================================================
ADMISSION PHYSICAL EXAMINATION
Vitals:  T:97   HR:55   BP:143/48   RR:18   SaO2:95% on RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: warm and well perfused
Pulmonary: breathing comfortably on room air
Abdomen: Soft and nondistended
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented x 3. Attention to 
examiner easily maintained. Recalls a coherent history although 
details can be vague. Speech is fluent with full sentences, 
intact repetition, and intact verbal comprehension. Content of 
speech demonstrates intact naming (high and low frequency) and 
no paraphasias. Normal prosody. No dysarthria. No apraxia. No 
evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting. 
EOMI. Left beating nystagmus on left end gaze. No other 
nystagmus noted.  V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.  HIT 
positive to the left.  

- Motor - Normal bulk and tone. Mild right pronation of 
approximately 20 degrees. No drift.  No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat
L  2  2    2    2+   
R  2  2    2    2+   
No cross adductors
Difficult to assess due to significant withdraw.

- Coordination - No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait - Normal initiation. Slightly broad base. Cautious.  No 
dizziness noted.  Some difficulty with pivoting when turning 
towards the left.  Does not fall to one side.  Negative Romberg.

=============================================================
DISCHARGE PHYSICAL EXAM:  
No nystagmus, no dysmetria, gait slightly broad, but not ataxic 
or unstable.  
** Asymmetry with smiling is lifelong (as per wife).  Full 
strength.  Sensation symmetric and normal.

=============================================================
 
Pertinent Results:
___ 07:30AM BLOOD WBC-6.5 RBC-4.73 Hgb-14.8 Hct-43.7 MCV-92 
MCH-31.3 MCHC-33.9 RDW-11.6 RDWSD-39.1 Plt ___
___ 10:29PM BLOOD Neuts-67.4 ___ Monos-6.0 Eos-3.6 
Baso-0.9 Im ___ AbsNeut-4.50 AbsLymp-1.43 AbsMono-0.40 
AbsEos-0.24 AbsBaso-0.06
___ 07:30AM BLOOD Plt ___
___ 10:29PM BLOOD Glucose-124* UreaN-14 Creat-0.9 Na-138 
K-4.6 Cl-103 HCO3-21* AnGap-19
___ 09:00PM BLOOD Cholest-147
___ 09:00PM BLOOD VitB12-687
___ 09:00PM BLOOD Triglyc-83 HDL-44 CHOL/HD-3.3 LDLcalc-86
___ 09:00PM BLOOD TSH-2.2
___ 10:35PM BLOOD Lactate-1.3

MRI BRAIN: 
1. No acute intracranial abnormality. 
2. Findings of small vessel ischemic disease with old lacunar 
infarct in the left parietal white matter. 
3. Paranasal sinus disease as described above. 

 
Brief Hospital Course:
___ is a ___ yo male with a history of hypertension, 
hypothyroidism, bilateral sensorneural hearing loss with hearing 
aides and chronic neck pain who presents with dizziness since 
5pm on ___.

Serial examinations revealed a positional component to his 
vertigo - triggered by left head turn.  Exam with + Left 
___ (latency followed by left beating torsional 
nystagmus) in the absence of dysmetria/ataxia or brainstem signs 
was suggestive of a peripheral etiology of his vertigo, 
particularly BPPV.  However, given nystagmus on primary gaze 
(initially) and broad based gait, he was admitted for MRI brain 
given possibility of a central cause of his vertigo. Ultimately 
MRI brain showed SVID and prior left parietal lacune, but not 
acute stroke.  CTA with diminutive right vertebral artery.  
Although we do not think he had a stroke, his stroke risk 
factors were assessed and include HTN.  LDL was 86.  He is a non 
diabetic.  Non smoker.

Within 24 hours, his vertigo improved.  He was cleared by ___ to 
return home.  He was prescribed meclizine for further bouts of 
BPPV.  We counseled him on when to return to the ED if he has 
vertigo in the future. 
 
Medications on Admission:
1. Levothyroxine 112mcg daily
2. Terazosin 10mg daily
 
Discharge Medications:
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. Terazosin 10 mg PO QHS 
3. Meclizine 12.5 mg PO TID 
RX *meclizine 12.5 mg 1 tablet(s) by mouth three times a day 
Disp #*45 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Vestibulopathy - Benign Paroxsymal Positional 
Vertigo.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory 

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Neurology service for work up of a 
possible stroke because dizziness can sometimes be a symptom of 
stroke.  However, you had imaging on your brain which did not 
show a new stroke.  You most likely have an inner ear problem 
that is causing your dizziness.  Specifically, we call this BPPV 
- benign paroxysmal positional vertigo - which is caused by a 
dislodged inner ear crystal.  It will likely resolve on its own 
with time.  If your symptoms do not improve, please see your 
primary care doctor who can refer you to vestibular physical 
therapy.  As your symptoms drastically improved overnight, we 
did not give you a script for physical therapy.  

BPPV can happen again in the future.  If so, you can take 
meclizine 12.5mg up to three times per day.  If, however, the 
dizziness is much worse or accompanied by other neurological 
symptoms, you should seek evaluation in an Emergency room.

Best Regards (and HAPPY BIRTHDAY),
___ Neurology Team
 
Followup Instructions:
___